US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-pyrido[3,4-h]chroman
The title compound was prepared following the procedure in Example 18 from 5-hydroxyisoquinoline (9 mg; 0.062 mmol) and 3-(3-bromo-4,5-dimethoxyphenyl)-propenal (30 mg; 0.11 mmol) using morpholine as a base (10 μl; 0.11 mmol) (yield: 29%). 1H NMR (acetone-d6): 9.16 (s, 1H), 8.50 and 8.49 (d each, J=5.7 Hz; 1H), 7.95 (d, J=6.4 Hz) and 7.94 (d, J=5.9 Hz) (1H), 7.51 (d, J=8.4 Hz) and 7.49 (d, J=7.0 Hz) (1H), 6.98-7.07 (m, 3H), 6.65 (d, J=6.6 Hz) and 6.59 (d, J=3.9 Hz) (1H), 5.91-5.93 (m) and 5.74-5.77 (m) (1H), 4.46-4.54 (overlapping dd, J=6.2, 10.5 Hz; 1H), 3.84, 3.81 and 3.80 (s each, 6H), 2.54 (ddd, J=2.1, 6.4, 13.3 Hz) and 2.19-2.38 (m) (2H).

reactant | 5-hydroxyisoquinoline | 0.062 mmol, 9 mg | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | 3-(3-bromo-4,5-dimethoxyphenyl)-propenal | 0.11 mmol, 30 mg | BrC=1C=C(C=C(C1OC)OC)C=CC=O | C11H11BrO3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-pyrido[3,4-h]chroman | yield: 29% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)C=NC=C3)O | C20H18BrNO4
